US05391560
2.76 g (0,008 mol) of 3-(4'-chlorophenyl)-4-(4"-methyl-3"-trifluoromethyl-Δ2" -1",2",4"-triazolin-5"-on-1"-yl)-4,5-dihydropyrazole are dissolved in 20 ml of acetonitrile (anhydrous) at 60° C. until a clear solution has formed, this solution is treated with 1.7 g of 4-trifluoromethoxy-phenyl isocyanate, and 2drops of triethylamine are added. The mixture is subsequently allowed to stand for 2 hours at room temperature. The solvent is subsequently stripped off in vacuo, the residue is treated with 20 ml of diethyl ether and, after 2 hours, the precipitate which has formed is filtered off with suction. 2.0 g (45.6% of theory) of N-(4-trifluormethoxy)-3-(4'-chlorophenyl)-4-(4"-methyl-3"-trifluoromethyl-Δ2" -1",2",4,"-triazolin-5"-on-1"-yl)-4,5-dihydro-1-pyrazole-carboxanilide having a melting point of 241° C. are obtained.

reactant | 4,5-dihydropyrazole | N1N=CCC1 | C3H6N2
reactant | 4-trifluoromethoxy-phenyl isocyanate | 1.7 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | triethylamine | 2drops | C(C)N(CC)CC | C6H15N
product | 4,5-dihydro-1-pyrazole-carboxanilide | N1(N=CCC1)C(=O)NC1=CC=CC=C1 | C10H11N3O
